### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): diagonal matrices with nonnegative entries are totally nonnegative

### PR DESCRIPTION
**Pull request by sqrt-of-2**
---
This follow-up PR was suggested by @Vierkantor in https://github.com/leanprover-community/mathlib4/pull/41813#discussion_r3602246957.

This contribution was created during "Formalizing Mathematics in Lean" held in Utrecht in August 2026.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 1]
```diff
@@ -52,20 +55,32 @@ lemma IsTotallyNonneg.nonneg (hM : M.IsTotallyNonneg) (i j : ι) : 0 ≤ M i j :
 variable [IsStrictOrderedRing R]
 
 @[simp] protected lemma IsTotallyNonneg.zero : (0 : Matrix ι ι R).IsTotallyNonneg
-  | 0 => by grind [det_fin_zero]
+  | 0 => by simp [det_fin_zero]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]:
```suggestion
  | 0 => by simp
```

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 2]
```diff
@@ -52,20 +55,32 @@ lemma IsTotallyNonneg.nonneg (hM : M.IsTotallyNonneg) (i j : ι) : 0 ≤ M i j :
...
   | n + 1 => by simp
 
-@[simp] protected lemma IsTotallyNonneg.one [DecidableEq ι] :
-    (1 : Matrix ι ι R).IsTotallyNonneg := by
+/-- A diagonal matrix with nonnegative diagonal entries is totally nonnegative. -/
+protected lemma IsTotallyNonneg.diagonal [DecidableEq ι] {f : ι → R} (hf : 0 ≤ f) :
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean:62]: can you also add the iff version?

```lean
@[simp] lemma isTotallyNonneg_diagonal_iff [DecidableEq ι] {f : ι → R} :
    (diagonal f).IsTotallyNonneg ↔ 0 ≤ f :=
  ⟨fun hM i ↦ by simpa using hM.nonneg i i, .diagonal⟩
```

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 3]
```diff
@@ -52,20 +55,32 @@ lemma IsTotallyNonneg.nonneg (hM : M.IsTotallyNonneg) (i j : ι) : 0 ≤ M i j :
...
+    (diagonal f).IsTotallyNonneg := by
   intro n rows cols hrows hcols
   by_cases h_range : Set.range rows = Set.range cols
-  · simp [hrows.eq_of_range_eq hcols h_range, submatrix_one cols hcols.injective]
+  · rw [hrows.eq_of_range_eq hcols h_range, submatrix_diagonal _ _ hcols.injective,
+        det_diagonal]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]:
```suggestion
  · rw [hrows.eq_of_range_eq hcols h_range, submatrix_diagonal _ _ hcols.injective, det_diagonal]
```

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 4]
```diff
@@ -52,20 +55,32 @@ lemma IsTotallyNonneg.nonneg (hM : M.IsTotallyNonneg) (i j : ι) : 0 ≤ M i j :
 variable [IsStrictOrderedRing R]
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]: I think you can generalize this to `IsOrderedRing`

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 5]
```diff
@@ -52,20 +55,32 @@ lemma IsTotallyNonneg.nonneg (hM : M.IsTotallyNonneg) (i j : ι) : 0 ≤ M i j :
...
     simp [det_eq_zero_of_row_eq_zero i, this]
 
+@[simp] protected lemma IsTotallyNonneg.one [DecidableEq ι] :
+    (1 : Matrix ι ι R).IsTotallyNonneg :=
+  IsTotallyNonneg.diagonal zero_le_one
+
+/-- A constant diagonal matrix with a nonnegative diagonal value is totally nonnegative. -/
+lemma IsTotallyNonneg.diagonal_const [DecidableEq ι] {c : R} (hc : 0 ≤ c) :
+    (diagonal (fun _ : ι ↦ c)).IsTotallyNonneg :=
+  IsTotallyNonneg.diagonal fun _ ↦ hc
```
Comment (themathqueen) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean]: I'm not so sure if this is useful to have or not... hmmm

**Comment by sqrt-of-2** [comment]
-awaiting-author

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean [hunk 6]
```diff
@@ -24,6 +25,8 @@ This file defines totally nonnegative matrices and provides basic API for them.
 - `Matrix.IsTotallyNonneg.nonneg`: any entry of a totally nonnegative matrix is nonnegative.
 - `Matrix.IsTotallyNonneg.zero`: the zero matrix is totally nonnegative.
 - `Matrix.IsTotallyNonneg.one`: the identity matrix is totally nonnegative.
+- `Matrix.IsTotallyNonneg.diagonal`: a diagonal matrix with nonnegative diagonal entries is totally
+  nonnegative.
```
Comment (kbuzzard) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyNonneg.lean:29]: You prove `diagonal` before `one` but list `one` before `diagonal`. I'm not sure we have any conventions here though.

**Comment by kbuzzard** [comment]
bors merge

**Comment by kbuzzard** [comment]
> Already running a review

I know -- but I realised I wrote `bors merge` in a review comment and thought it better to write it here instead.
